US08198267B2
1-(2-Bromo-4-nitrophenyl)tetrahydropyrimidin-2(1H)-one
910 mg (9.09 mmol) of tetrahydropyrimidinone in 39 ml of DMSO are admixed at RT with 1.53 g (13.6 mmol) of potassium tert-butoxide, and the mixture is stirred at room temperature for 30 min. 2.00 g (9.09 mmol) of 2-bromo-1-fluoro-4-nitrobenzene are added and the mixture is stirred at 60° C. After 18 h, it is cooled and added to 600 ml of water and 160 ml of saturated aqueous sodium chloride solution. It is extracted three times with 300 ml each time of ethyl acetate, and the combined organic phases are dried over sodium sulfate. After filtration, the solvents are removed under reduced pressure and the residue is purified by chromatography on silica gel (60:1 dichloromethane/ethanol). This affords 481 mg (17% of theory) of the desired compound.

reactant | tetrahydropyrimidinone | 9.09 mmol, 910 mg | N1C(NCCC1)=O | C4H8N2O
reactant | potassium tert-butoxide | 13.6 mmol, 1.53 g | CC(C)([O-])C.[K+]
reactant | 2-bromo-1-fluoro-4-nitrobenzene | 9.09 mmol, 2.00 g | BrC1=C(C=CC(=C1)[N+](=O)[O-])F | C6H3BrFNO2
reactant | sodium chloride | 160 ml | [Cl-].[Na+]
solvent | DMSO | 39 ml | CS(=O)C | C2H6OS
solvent | water | 600 ml | O | H2O
product | 1-(2-Bromo-4-nitrophenyl)tetrahydropyrimidin-2(1H)-one | BrC1=C(C=CC(=C1)[N+](=O)[O-])N1C(NCCC1)=O | C10H10BrN3O3
